US07635715B2
Step G: Preparation of N-((7-Chloro-1-ethyl-4-hydroxy-1-methyl-2-oxo-naphthalen-3-yl)carbonyl)glycine
1,1-Dimethylethyl N-((7-chloro-1-ethyl-4-hydroxy-1-methyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate (393 mg, 998 μmol) was stirred in TFA (3 mL, 40.4 mmol) at room temperature for 20 minutes. The TFA was removed in vacuo, and water was added. The resulting precipitate was filtered and washed with water to give the desired product as a white solid (274 mg). MS (m/e)=338 (M+H)+. Calculated for C16H16ClNO5 337.07.

reactant | 1,1-Dimethylethyl N-((7-chloro-1-ethyl-4-hydroxy-1-methyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 998 μmol, 393 mg | ClC1=CC=C2C(=C(C(C(C2=C1)(C)CC)=O)C(=O)NCC(=O)OC(C)(C)C)O | C20H24ClNO5
reactant | TFA | 40.4 mmol, 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((7-Chloro-1-ethyl-4-hydroxy-1-methyl-2-oxo-naphthalen-3-yl)carbonyl)glycine | 274 mg | ClC1=CC=C2C(=C(C(C(C2=C1)(C)CC)=O)C(=O)NCC(=O)O)O | C16H16ClNO5
